US08008506B2
3-(Methoxymethyl)-1-(tetrahydro-2H-pyran-2-yl)indazol-6-ol
5% Palladium on carbon-STD-type-50% wet with water (199 mg; manufactured by N.E. Chemcat Corp.) and 6-(benzyloxy)-3-(methoxymethyl)-1-(tetrahydro-2H-pyran-2-yl)indazole (450 mg) that can be produced by the method described in Reference Example 54 or the like, were dissolved in THF (12.7 mL; manufactured by Kanto Chemical Co., Inc.). The reaction system was purged with hydrogen, and under a hydrogen atmosphere, the reaction solution was stirred overnight at room temperature. The reaction solution was purged with nitrogen, and then was filtered. The filtrate was concentrated under reduced pressure, and thus the title compound (337.4 mg) was obtained.

reactant | water | 199 mg | O | H2O
reactant | 6-(benzyloxy)-3-(methoxymethyl)-1-(tetrahydro-2H-pyran-2-yl)indazole | 450 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)COC | C21H24N2O3
catalyst | Palladium on carbon | [Pd] | Pd
solvent | THF | 12.7 mL | C1CCOC1 | C4H8O
product | 3-(Methoxymethyl)-1-(tetrahydro-2H-pyran-2-yl)indazol-6-ol | 337.4 mg | COCC1=NN(C2=CC(=CC=C12)O)C1OCCCC1 | C14H18N2O3
